US04033947
2-(2-Methylaminopropyl)-8-chloro-6-phenyl-1H-s-triazolo-[4,3-a] [1,5]benzodiazepine-1,5-dione
4 g of 2-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-6-phenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione in 100 ml of ethanol containing 0.4 g of 5% palladium on charcoal is hydrogenated at 50 p.s.i. hydrogen pressure until 1 molar equivalent of hydrogen is absorbed. The suspension is filtered and the filtrate is evaporated. The residue is triturated with a small amount of cold ether and the title compound is filtered off and dried.

reactant | 2-[2-(N-benzyl-N-methylamino)ethyl]-8-chloro-6-phenyl-1H-s-triazolo[4,3-a] [1,5]benzodiazepine-1,5-dione | 4 g | C(C1=CC=CC=C1)N(C)CCN1NC=2N(C3=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C3)Cl)C1=O | C26H24ClN5O2
reactant | ethanol | 100 ml, 0.4 g | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(2-Methylaminopropyl)-8-chloro-6-phenyl-1H-s-triazolo-[4,3-a] [1,5]benzodiazepine-1,5-dione | CNC(CN1NC=2N(C3=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C3)Cl)C1=O)C | C20H20ClN5O2
